2146-09-21 07:23:00 Physician Resident Progress Note
24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2146-9-20**] 09:02 AM
 BLOOD CULTURED - At [**2146-9-21**] 04:00 AM
 FEVER - 101.8
F - [**2146-9-21**] 12:00 AM
   - ID recs: stop vanc/ceftriaxone, start unasyn wait for speciation,
   check C3, C4 and urine for casts
   - uptitrated dilaudid for back pain
   - neurosurg thinks exam changing and back pain represents infection
   - flu d/ced bc osh records flu negative
   - blood cultures from osh enterococci, sensitivies pending
   - negative 500 at midnight without diureses
   - cards recs: standing beta blocker and aceI, held off on aceI bc of
   renal failure, they said if that was the case to start hydral/imdur
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2146-9-20**] 09:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2146-9-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2146-9-20**] 09:03 AM
   Fentanyl - [**2146-9-20**] 09:03 AM
   Hydromorphone (Dilaudid) - [**2146-9-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-21**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.7
C (98
   HR: 86 (86 - 108) bpm
   BP: 150/67(85) {137/55(75) - 178/85(104)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,204 mL
                                                                    274 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    954 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    780 mL
   Urine:
                                                                  1,700 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -496 mL
                                                                   -507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   GEN: ill appearing gentleman
   HEENT: EOMI, anicteric, PERRL, OP
 no exudate, no erythema
   CHEST: CTAB
   CV: RRR
   ABD: NDNT, soft, NABS
   BACK: large amount of TTP over low spine process, paraspinal tenderness
   EXT: no c/c/e
   NEURO: A&O, decreased strength in dorsiflexion [**2-17**] left [**4-19**] right
   DERM: no rashes
   Labs / Radiology
   343 K/uL
   9.0 g/dL
   122 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.0 mEq/L
   40 mg/dL
   104 mEq/L
   138 mEq/L
   27.5 %
   17.6 K/uL
        [image002.jpg]
                             [**2146-9-19**]  03:32 PM
                             [**2146-9-19**]  10:37 PM
                             [**2146-9-20**]  04:24 AM
                             [**2146-9-21**]  03:33 AM
   WBC
   13.9
   17.6
   Hct
   31.1
   27.5
   Plt
   314
   343
   Cr
   2.2
   2.3
   2.2
   TropT
   0.36
   0.32
   Glucose
   145
   117
   122
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:160/10/0.32, ALT / AST:28/30, Alk Phos / T Bili:98/0.3,
   LDH:238 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:4.2 mg/dL
[**2146-9-18**] 11:20 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ENTEROCOCCUS SP..    POSSIBLE  OF TWO COLONIAL MORPHOLOGIES.
   Anaerobic Bottle Gram Stain (Final [**2146-9-19**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] AT 2205 ON [**2146-9-19**].
   Aerobic Bottle Gram Stain (Final [**2146-9-20**]):
      GRAM POSITIVE COCCI.
         IN PAIRS AND CHAINS.
[**2146-9-19**] 12:55 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2146-9-20**]):
      REPORTED BY PHONE TO DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] PAGER# [**Serial Number **] @ 0400 ON [**2146-9-20**].
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
[**2146-9-19**] 10:37 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2146-9-21**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**9-20**] BCx pending
[**9-21**] BCx pending
[**9-20**] UCx pending
[**9-19**] UCx negative
   Assessment and Plan
   76 y.o.M with fever, low back pain, transferred to ICU with respiratory
   distress, likely secondary to flash pulmonary edema, now found to have
   aortic valve endocarditis.
   # Aortic Valve Endocarditis: Found on TEE yesterday. Presumably from
   his recent TURP in [**2145**].
   - appreciate ID recs
   - continue unasyn for likely 6 weeks
   - will need PICC after 48 hours of negative cultures
   - f/u cultures and sensitivities
   - daily surveillance cultures
   # Low back pain: In setting of fevers, leukocytosis, and acute lower
   back pain, still highly suspicious of epidural abscess or discitis.
   However, given renal failure, unable to get MRI L-spine.
   - appreciate neurosurgery following/
   - WBC scan pending
   - MRI L Spine with gadolinium today despite renal risk given changing
   neuro exam.
   - Dilaudid prn for pain meds
   - q2h neurochecks
   # Acute Pulmonary Edema: Off nitro gtt since yesterday, on 2 L NC, much
   improved
   # Elevated troponins: Per cardiology, likely demand ischemia in setting
   of hypertension/tachycardia, less likely distal LAD. No associated ECG
   changes. Enzymes peaked and trended down, s/p 24 hours of heparin
   - daily aspirin
   - hold on plavix given possible surgery
   - high dose statin, beta blocker
   #. Tachycardia: Sinus tachycardia, most likely secondary pain.
   - continue dilaudid prn
   - monitor on telemetry
   #. Renal failure: Likely chronic renal failure. Was being worked up at
   OSH for paraproteinemia/myeloma with possible m spike. Baseline is now
   likely 1.5-2.5, and he appears to be within new baseline.
   - repeat SPEP, UPEP
   - renally dose meds
   #. Anemia: No baseline to compare to. Normal MCV suggests this may be
   related to underlying inflammation from current process.
   - Guiaic stools
   - active T&S
   #. Gout: Will hold medications for now given ARF
   ICU Care
   Nutrition:
   Comments: Regular, cardiac healthy diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-9-19**] 08:59 AM
   20 Gauge - [**2146-9-20**] 05:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition: ICU Stay

2146-09-22 07:21:00 Physician Resident Progress Note
24 Hour Events:
 SPUTUM CULTURE - At [**2146-9-22**] 12:00 AM
 BLOOD CULTURED - At [**2146-9-22**] 01:59 AM
 BLOOD CULTURED - At [**2146-9-22**] 01:59 AM
   - enterococcus, sensitivities pending, back today
   - sensitivities on [**Hospital1 5**] cultures: likely faecalis, sensitive to
   amp/vanco/levo
   - started ceftriaxone 2 gm IV q24 per ID for synergistic effect if
   faecalis
   - MRI with gad showed several small abscesses at level of L5, possible
   discitis L5/S1.
   - Neurosurgeons met with patient and discussed risks and benefits of
   surgery/debridement given recent demand/NSTEMI. Plan overnight was to
   uptitrate pain control, and defer surgery for now
   - Hypertensive in the evening, given 1 dose of 200mg PO labetolol.
   - started on PCA for pain, diazepam, and neurontin.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2146-9-20**] 09:00 AM
   Ampicillin - [**2146-9-22**] 05:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-9-21**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2146-9-21**] 08:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-9-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.7
   HR: 88 (82 - 104) bpm
   BP: 144/54(77) {142/47(74) - 185/76(103)} mmHg
   RR: 16 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    690 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                    690 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    500 mL
   Urine:
                                                                  2,270 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,580 mL
                                                                   -228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: less-ill appearing gentleman
   HEENT: EOMI, anicteric, PERRL, OP
 no exudate, no erythema
   CHEST: CTAB
   CV: RRR
   ABD: NDNT, soft, NABS
   EXT: no c/c/e
   NEURO: A&O, decreased strength in dorsiflexion [**3-20**] left [**4-19**] right,
   plantar flexion [**4-19**] right [**3-20**] left
   Straightleg raise 30degrees without pain left, full right. IP muscles
   [**4-19**].
   DERM: no rashes
   Labs / Radiology
   401 K/uL
   8.9 g/dL
   111 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   37 mg/dL
   105 mEq/L
   141 mEq/L
   27.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2146-9-19**]  03:32 PM
                             [**2146-9-19**]  10:37 PM
                             [**2146-9-20**]  04:24 AM
                             [**2146-9-21**]  03:33 AM
                             [**2146-9-22**]  01:20 AM
   WBC
   13.9
   17.6
   14.7
   Hct
   31.1
   27.5
   27.3
   Plt
   [**Telephone/Fax (3) 9256**]
   Cr
   2.2
   2.3
   2.2
   2.0
   TropT
   0.36
   0.32
   Glucose
   145
   117
   122
   111
   Other labs: PT / PTT / INR:14.0/33.7/1.2, CK / CKMB /
   Troponin-T:160/10/0.32, ALT / AST:28/30, Alk Phos / T Bili:98/0.3,
   Albumin:3.0 g/dL, LDH:238 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.9
   mg/dL
[**2146-9-18**] 11:20 pm BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ENTEROCOCCUS SP..
   Anaerobic Bottle Gram Stain (Final [**2146-9-19**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] AT 2205 ON [**2146-9-19**].
   Aerobic Bottle Gram Stain (Final [**2146-9-20**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2146-9-19**] 12:55 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      ENTEROCOCCUS SP..
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 9257**]
         ,[**2146-9-18**].
   Anaerobic Bottle Gram Stain (Final [**2146-9-20**]):
      REPORTED BY PHONE TO DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] PAGER# [**Serial Number **] @ 0400 ON [**2146-9-20**].
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2146-9-21**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
[**2146-9-19**] 10:37 pm BLOOD CULTURE      Source: Venipuncture 2 OF 2.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2146-9-21**]):
      GRAM POSITIVE COCCI.
      IN PAIRS AND CHAINS.
[**2146-9-20**] 4:24 am BLOOD CULTURE      Source: Venipuncture.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CHAINS.
   Anaerobic Bottle Gram Stain (Final [**2146-9-21**]):
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS.
   Aerobic Bottle Gram Stain (Final [**2146-9-21**]):
         GRAM POSITIVE COCCI IN PAIRS AND CHAINS
   [**9-21**] BCx NGTD
   [**9-22**] BCx x 2 NGTD
   [**9-19**] and [**9-20**] UCX negative
[**2146-9-21**] 9:21 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2146-9-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS
MRSA SCREEN (Final [**2146-9-21**]):
         POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS.
   Portable AP chest radiograph was compared to [**2146-9-20**].
   There is still present right upper lobe perihilar opacity with
   bronchial wall
   thickening and minimal peribronchial consolidations. There is also
   interval
   development of left perihilar bronchial wall thickening and perihilar
   opacities might represent similar process. The cardiomediastinal
   silhouette
   is stable, and the lungs are essentially clear. The above described
   findings
   are consistent with progressing airway infection/inflammation. No newly
   developed focal consolidation is demonstrated. The previously described
   mild
   pulmonary edema is still present, unchanged.
   MRI L-SPINE FINDINGS:
   There are multiple loculated fluid collections within the predominantly
   posterior epidural space bilaterally extending from the L5 epidural
   space to
   the level of S1. The largest one measures 8.8 x 4.6 mm. The one on the
   left
   measures approximately 5.2 x 3 mm. Multiple loculations are seen which
   cause
   severe spinal canal narrowing extending from L5 through S1. Given that
   post-
   contrast images were not obtained, it is difficult to determine the
   enhancement pattern of these.
   There is T2 hyperintensity within the intervertebral disc space at the
   level
   of L5/S1 and L1/L2 without evidence for enhancement which may suggest
   degenerative changes or alternatively inflammatory changes without
   evidence
   for abscess.
   Stable degenerative changes as detailed previously are also seen, the
   most
   prominent of these located at the level of L4/L5 with associated grade
   1
   anterolisthesis causing severe spinal canal narrowing and bilateral
   subarticular narrowing with likely close abutment of the descending
   bilateral,
   right greater than left, L5 nerve root. The examination continues
   unchanged
   when compared to the prior exam.
   IMPRESSION:
   1. Predominantly posterior epidural loculated enhancing fluid
   collections,
   the largest on the right measuring 8.8 x 4.6 mm and on the left 5 x 3
   mm,
   causing severe spinal canal narrowing extending from L5 through S1.
   2. T2 hyperintensity within the L5/S1 and L1/L2 intervertebral disc
   spaces
   may reflect degenerative changes or early inflammatory changes without
   any
   evidence for enhancement to suggest discrete abscess. No evidence for
   osteomyelitis.
   Assessment and Plan
   76 y.o.M with fever, low back pain, transferred to ICU with respiratory
   distress, likely secondary to flash pulmonary edema, now found to have
   enterococcal aortic valve endocarditis with multiple small epidural
   abscesses.
   # Epidural Abscesses: Found on MRI L spine yesterday. Meeting yesterday
   with Neurosurgery and family determined that surgery would not be
   pursued at this time given small size of abscesses, cardiac risk given
   recent demand ischemia.
   - monitor neuro checks q4 hours
   - continue to treat enterococcal infection with ampicillin and
   ceftriaxone per ID
   - appreciate neurosurgery recs
   - f/u all cultures and sensitivities
   - WBC scan (2^nd day) to assess for further areas of infection
   - Pain control with neurontin, valium, Dilaudid PCA with encouragement
   # Aortic Valve Endocarditis: Found on TEE. Presumably from his recent
   TURP in [**2145**].
   - appreciate ID recs
   - continue ampicillin and ceftriaxone for likely 6 weeks
   - will need PICC after 48 hours of negative cultures
   - f/u cultures and sensitivities
   - daily surveillance cultures until 48 hours of negative cultures
   # Elevated troponins: Per cardiology, likely demand ischemia in setting
   of hypertension/tachycardia, less likely distal LAD. No associated ECG
   changes. Enzymes peaked and trended down, s/p 24 hours of heparin
   - daily aspirin
   - high dose statin, beta blocker
   #. Tachycardia: Sinus tachycardia, most likely secondary pain.
   - continue pain control
   - monitor on telemetry
   #. Renal failure: Likely chronic renal failure. Was being worked up at
   OSH for paraproteinemia/myeloma with possible m spike. Baseline is now
   likely 1.5-2.5, and he appears to be within new baseline.
   - SPEP/UPEP pending
   - renally dose meds
   - monitor Cr closely given recent contrast load
   #. Anemia: No baseline to compare to. Normal MCV suggests this may be
   related to underlying inflammation from current process.
   - Guiaic stools
   - active T&S
   #. Gout: Will hold medications for now given ARF
   # constipation: add bowel regimen.
   ICU Care
   Nutrition:
   Comments: Full Liquids, cardiac healthy
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-9-19**] 08:59 AM
   20 Gauge - [**2146-9-20**] 05:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU